US08664220B2
Step 1: 2-Bromo-6-cyclopropylmethoxy-pyridine
Prepared according to the procedure described in Example 139, Step 1, using 2,6-dibromo-pyridine and cyclopropyl-methanol.

reactant | 2,6-dibromo-pyridine | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | cyclopropyl-methanol | C1(CC1)CO | C4H8O
product | 2-Bromo-6-cyclopropylmethoxy-pyridine | BrC1=NC(=CC=C1)OCC1CC1 | C9H10BrNO
